US06010981
11. Preparation of 1-(1,1-dimethylethyl)-5-hydroxy-4-(2-methyl-4-methylsulfonyl-3-(4-methylsulfonylphenyl)benzoyl)pyrazole (Cpd. 67)
A solution of 560 mg (2.7 mmol) of 1,3-dicyclohexylcarbodiimide in 5 mL of acetonitrile was added with stirring to a mixture of 2-methyl-4-methylsulfonyl-3-(4-methylsulfonylphenyl)benzoic acid and 378 mg (2.7 mmol) of 1-(1,1-dimethylethyl)-5-hydroxypyrazole in 15 mL of acetonitrile. The mixture was allowed to react for 1 hour and was then filtered. The solids were washed with a little acetonitrile. Triethylamine (1.13 mL, 8.1 mmol) and 274 microliters (2.7 mmol) of acetone cyanohydrin were added with stirring to the combined filtrate and acetonitrile wash. After 3 hours, the mixture was diluted with dichloromethane and the resulting solution was washed with 2N aqueous hydrochloric acid, filtered, and concentrated by evaporation under reduced pressure. The residue was dissolved in the minimum amount of hot ethanol and the solution was then cooled. The precipitate that formed was collected by filtration and dried to obtain the title compound as a pale yellow powder melting at 187-188° C.

reactant | 1,3-dicyclohexylcarbodiimide | 2.7 mmol, 560 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-methyl-4-methylsulfonyl-3-(4-methylsulfonylphenyl)benzoic acid | CC1=C(C(=O)O)C=CC(=C1C1=CC=C(C=C1)S(=O)(=O)C)S(=O)(=O)C | C16H16O6S2
reactant | 1-(1,1-dimethylethyl)-5-hydroxypyrazole | 2.7 mmol, 378 mg | CC(C)(C)N1N=CC=C1O | C7H12N2O
reactant | Triethylamine | 8.1 mmol, 1.13 mL | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 2.7 mmol, 274 microliters | CC(C#N)(O)C | C4H7NO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 1-(1,1-dimethylethyl)-5-hydroxy-4-(2-methyl-4-methylsulfonyl-3-(4-methylsulfonylphenyl)benzoyl)pyrazole | CC(C)(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)C1=CC=C(C=C1)S(=O)(=O)C)C)=O | C23H26N2O6S2
